US08580785B2
d) Preparation of 7-tert-butoxycarbonylamino-quinoxaline-6-carboxylic acid methyl ester
7.1 g (30.6 mmol) quinoxaline-6,7-dicarboxylic acid monomethyl ester, 8 ml NEt3, 1 g molecular sieve 4 Å and 10 ml (46.40 mmol) diphenylphosphonic azide is successively added to 100 ml t-butanol. The mixture is heated at a temperature of 85° C. during 20 hours. After cooling, the mixture is filtered and the solid is washed with 1000 ml THF. The filtrate is evaporated and submitted to flash-chromatography to give 7.45 g (80%) of the title compound. m.p.: 196-198° C.

reactant | quinoxaline-6,7-dicarboxylic acid monomethyl ester | 30.6 mmol, 7.1 g | COC(=O)C=1C=C2N=CC=NC2=CC1C(=O)O | C11H8N2O4
reactant | NEt3 | 8 ml | CCN(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 46.40 mmol, 10 ml | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 7-tert-butoxycarbonylamino-quinoxaline-6-carboxylic acid methyl ester | 7.45 g, 80% | COC(=O)C=1C=C2N=CC=NC2=CC1NC(=O)OC(C)(C)C | C15H17N3O4
